US09102591B2
2-Chloro-N—[[4,4-difluoro-1-(6-fluoro-3-pyridyl)cyclohexyl]methyl]-5-methyl-benzamide
From 2-chloro-5-methylbenzoic acid and C-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexyl]-methylamine. LCMS (MH+): m/z=397.2, tR (minutes, Method C)=1.11

reactant | 2-chloro-5-methylbenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)C | C8H7ClO2
reactant | C-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=CC1)F)CN)F | C12H15F3N2
product | 2-Chloro-N—[[4,4-difluoro-1-(6-fluoro-3-pyridyl)cyclohexyl]methyl]-5-methyl-benzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=CC2)F)C=C(C=C1)C | C20H20ClF3N2O
